US09238640B2
3-(Tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carboxylic acid methyl ester (0.53 g crude, approximately 1.55 mmol) was taken in anhydrous THF (20 mL) and cooled to −10° C. A solution of lithium aluminium hydride (1.0 M solution in THF, 0.12 g, 3.10 mmol) was added drop-wise at −10° C. over a period of 15 minutes under nitrogen. Stirring continued at −10° C. for 1 hour and the reaction was then allowed to warm to room temperature and stirring continued at room temperature for 16 hours. The reaction mixture was carefully quenched with saturated aq. saturated ammonium chloride solution (100 mL). Then, reaction mixture was diluted with ethyl acetate (100 mL). The organic phase was separated, washed with brine (50 mL) and dried over anhydrous Na2SO4. Solvent was evaporated to give [3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazol-5-yl]-methanol as a yellow gummy material. Yield: 0.40 g (crude). This product was used in the next step without further purification.

reactant | 3-(Tetrahydro-pyran-2-yloxymethyl)-1H-indazole-5-carboxylic acid methyl ester | approximately 1.55 mmol, 0.53 g | COC(=O)C=1C=C2C(=NNC2=CC1)COC1OCCCC1 | C15H18N2O4
reactant | lithium aluminium hydride | 3.10 mmol, 1.0 M, 0.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | [3-(tetrahydro-pyran-2-yloxymethyl)-1H-indazol-5-yl]-methanol | O1C(CCCC1)OCC1=NNC2=CC=C(C=C12)CO | C14H18N2O3
